US07632838B2
5-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)-N,N-dimethylthiophene-2-carboxamide
To a solution of 5-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)thiophene-2-carboxylic acid (260 mg, 0.575 mmol) in DCM (5 mL) was added (COCl)2 (150.5 μL, 1.726 mmol) and DMF (1 small drop). The resultant mixture was stirred for 3 h. The solvent was evaporated and the crude residue was redissolved in dioxane (5 mL). To this was added 2N NH3 in EtOH (2 mL). The reaction mixture was stirred for 6 h then concentrated. The crude product was purified on SiO2 column eluted with hexanes/EtOAc to give the titled compound (less polar fraction, a side product) as a light yellow solid (48 mg, 17%). HRMS: calcd for C19H21F4N3O3S2+H+, 480.10332. found (ESI-FTMS, [M+H]1+), 480.1042.

reactant | 5-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)thiophene-2-carboxylic acid | 0.575 mmol, 260 mg | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(S1)C(=O)O)C)C(F)(F)F | C17H16F4N2O4S2
reactant | (COCl)2 | 1.726 mmol, 150.5 μL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)-N,N-dimethylthiophene-2-carboxamide | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC=C(S1)C(=O)N(C)C)C)C(F)(F)F | C19H21F4N3O3S2
